US07745641B2
In a similar manner to Step 1 of Example 149, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0817 g, 0.177 mmol) was dissolved in THF (4.0 mL), and the solution was treated with triphenylphosphine (0.0930 g, 0.354 mmol), 40% DEAD-toluene solution (0.161 mL, 0.354 mmol) and 1-(3-hydroxypropyl)-4-methylpiperazine (0.140 g, 0.855 mmol), followed by purification by flash column chromatography (chloroform/methanol=7/3) to obtain 4-[3-(4-methylpiperazin-1-yl)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0617 g, yield 58%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.177 mmol, 0.0817 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triphenylphosphine | 0.354 mmol, 0.0930 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD toluene | 0.354 mmol, 0.161 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
reactant | 1-(3-hydroxypropyl)-4-methylpiperazine | 0.855 mmol, 0.140 g | OCCCN1CCN(CC1)C | C8H18N2O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 4-[3-(4-methylpiperazin-1-yl)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0617 g, yield 58% | CN1CCN(CC1)CCCOC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C35H47N5O4
